US04923881
To a solution of lithium diisopropylamide prepared from n-butyllithium (4.0 ml, 1.56M solution in n-hexane) and diisopropylamine (0.88 ml) in freshly distillated dimethoxyethane (20 ml) was added dropwise a solution of 3,4-dihydro-5-methoxy-1(2H)-naphthalenone (881 mg) in dimethoxyethane (5 ml) at -20° C. under N2 gas atmosphere. The mixture was stirred at -20°~0° C. for half an hour and then warmed to 34° C. rapidly. To the mixture was added iodobutane (1.8 ml) in one portion. The mixture was refluxed for 50 minutes, allowed to cool to ambient temperature and poured into aqueous saturated sodium bicarbonate solution (50 ml). The separated oil was extracted with ethyl acetate. The organic layer was washed with dilute aqueous hydrochloric acid, aqueous sodium bicarbonate solution, and brine succeedingly. The solvent was dried and evaporated in vacuo. The residue was purified by column chromatography on silica gel (elution by chloroform/n-hexane, 1/10-1/3) to give 2-butyl-3,4-dihydro-5-methoxy-1 (2H)-naphthalenone (309 mg) as a pale yellow oil.

reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | n-butyllithium | 1.56M, 4.0 ml | C(CCC)[Li]
reactant | diisopropylamine | 0.88 ml | C(C)(C)NC(C)C | C6H15N
reactant | 3,4-dihydro-5-methoxy-1(2H)-naphthalenone | 881 mg | COC1=C2CCCC(C2=CC=C1)=O | C11H12O2
reactant | iodobutane | 1.8 ml | ICCCC | C4H9I
reactant | sodium bicarbonate | 50 ml | C([O-])(O)=O.[Na+]
solvent | dimethoxyethane | 5 ml | C(OC)COC | C4H10O2
solvent | dimethoxyethane | 20 ml | C(OC)COC | C4H10O2
product | 2-butyl-3,4-dihydro-5-methoxy-1 (2H)-naphthalenone | 309 mg | C(CCC)C1C(C2=CC=CC(=C2CC1)OC)=O | C15H20O2
